US08748613B2
4-Methylpiperidine (0.17 ml, 1.48 mmol), ethyl 2-bromo-2-phenylacetate (0.22 ml, 1.23 mmol), and TEA (0.21 ml, 1.48 mmol) were dissolved in acetonitrile (6 ml) and stirred at room temperature for 48 hours. The volatiles were evaporated and the crude residue was purified by flash chromatography (petroleum ether/AcOEt=95/5) to obtain ethyl 2-(4-methylpiperidin-1-yl)-2-phenylacetate (225 mg, 69.8% yield) as a colourless oil.

reactant | 4-Methylpiperidine | 1.48 mmol, 0.17 ml | CC1CCNCC1 | C6H13N
reactant | ethyl 2-bromo-2-phenylacetate | 1.23 mmol, 0.22 ml | BrC(C(=O)OCC)C1=CC=CC=C1 | C10H11BrO2
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | ethyl 2-(4-methylpiperidin-1-yl)-2-phenylacetate | 225 mg, 69.8% yield | CC1CCN(CC1)C(C(=O)OCC)C1=CC=CC=C1 | C16H23NO2
